US06576653B2
2-Bromo-4H-thieno[3,2-b]pyrrole-5-carboxylic acid
2-Bromo-4H-thieno[3,2-b]pyrrole-5-carboxylic acid ethyl ester (Eras, J.; Galvez, C.; Garcia, F., J. Heterocycl. Chem., 21: 215-217 (1984)) was hydrolyzed according to Procedure D (after cooling to room temperature, acidification with 2 N HCl; resultant precipitate filtered, suspended in toluene, concentrated; no purification).

reactant | 2-Bromo-4H-thieno[3,2-b]pyrrole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(N1)C=C(S2)Br | C9H8BrNO2S
reactant | HCl | 2 N | Cl | ClH
product | 2-Bromo-4H-thieno[3,2-b]pyrrole-5-carboxylic acid | BrC1=CC=2NC(=CC2S1)C(=O)O | C7H4BrNO2S
